US04647566
8-Benzyloxy-2-p-chlorophenyl-8-methyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one (4 g) is dissolved in 200 mL of a 1:1 mixture of DMF/EtOH and subjected to catalytic hydrogenation with 5% palladium on carbon (1 g) for 24 hours under 1 atm. of hydrogen. After the reaction is over, the catalyst is filtered off, the filtrate is evaporated, and the dried residue is triturated with EtOH to yield 2-p-chlorophenyl-8-hydroxy-8-methyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one.

reactant | 8-Benzyloxy-2-p-chlorophenyl-8-methyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one | 4 g | C(C1=CC=CC=C1)OC1(CC=2C=3C(=CNC2CC1)C(N(N3)C3=CC=C(C=C3)Cl)=O)C | C24H22ClN3O2
reactant | hydrogen | [H][H] | H2
solvent | DMF EtOH | CN(C)C=O.CCO
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 2-p-chlorophenyl-8-hydroxy-8-methyl-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one | ClC1=CC=C(C=C1)N1N=C2C(=CNC=3CCC(CC23)(C)O)C1=O | C17H16ClN3O2
